US09370515B2
Preparation of 7-methylthieno[3,2-c]pyridine
To a solution of 4,5,6,7-tetrahydro-7-methylene-5-tosylthieno[3,2-c]pyridine (150 mg, 0.491 mmol, 1.0 equiv) in HOt-Bu (5 mL) was added KOt-Bu (110 mg, 0.982 mmol, 2.0 equiv) and heated to reflux for 3 h. Purification by column chromatography using ethyl acetate elution gave 62 mg of the yellow solid, 85%.

reactant | 4,5,6,7-tetrahydro-7-methylene-5-tosylthieno[3,2-c]pyridine | 0.491 mmol, 150 mg, 1.0 equiv | C=C1C2=C(CN(C1)S(=O)(=O)C1=CC=C(C)C=C1)C=CS2 | C15H15NO2S2
reactant | KOt-Bu | 0.982 mmol, 110 mg, 2.0 equiv | CC(C)(C)[O-].[K+]
solvent | HOt-Bu | 5 mL | OC(C)(C)C | C4H10O
product | 7-methylthieno[3,2-c]pyridine | 62 mg | CC=1C2=C(C=NC1)C=CS2 | C8H7NS
